US07939467B2
Step 2: 4-[3-(2,2-Diethoxyethyl)amino-2-methyl-4-(methylsulfonyl)benzoyl]-1-ethyl-5-hydroxypyrazole
Under nitrogen, 0.38 g (1.1 mmol) of 3-(2,2-diethoxyethyl)amino-2-methyl-4-(methyl-sulfonyl)benzoic acid, 0.16 g (1.4 mmol) of 5-hydroxy-1-methylpyrazole and 0.25 g (1.3 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride were dissolved in dry CH3CN. The mixture was stirred at RT for 1 day and allowed to stand for 2 days. 0.31 ml (2.2 mmol) of NEt3, 0.06 ml (0.4 mmol) of Me3SiCN and a spatula tip of KCN were added, and the mixture was stirred at RT for 2 days. The solvent was removed under reduced pressure, and the residue was taken up in CH2Cl2 and 10% strength H2SO4. The organic phase was removed and dried over MgSO4, and the solvent was removed under reduced pressure. The residue were purified by preparative HPLC. This gave 0.14 g of a red oil in a purity of 93%.

reactant | 3-(2,2-diethoxyethyl)amino-2-methyl-4-(methyl-sulfonyl)benzoic acid | 1.1 mmol, 0.38 g | C(C)OC(CNC=1C(=C(C(=O)O)C=CC1S(=O)(=O)C)C)OCC | C15H23NO6S
reactant | 5-hydroxy-1-methylpyrazole | 1.4 mmol, 0.16 g | OC1=CC=NN1C | C4H6N2O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.3 mmol, 0.25 g | Cl.CN(CCCN=C=NCC)C
reactant | NEt3 | 2.2 mmol, 0.31 ml | CCN(CC)CC | C6H15N
reactant | Me3SiCN | 0.4 mmol, 0.06 ml | [Si](C)(C)(C)C#N | C4H9NSi
reactant | KCN | [C-]#N.[K+]
solvent | CH3CN | CC#N | C2H3N
product | 4-[3-(2,2-Diethoxyethyl)amino-2-methyl-4-(methylsulfonyl)benzoyl]-1-ethyl-5-hydroxypyrazole | C(C)OC(CNC=1C(=C(C(=O)C=2C=NN(C2O)CC)C=CC1S(=O)(=O)C)C)OCC | C20H29N3O6S
